US04837238
Ethyl 2-(pyrazol-4-ylamino)cyclopentene-1-carboxylate (D10)
The title compound was prepared from 4-nitropyrazole (5.2 g, 0.046 mole) as in description 7, using ethyl 2-cyclopentanonecarboxylate instead of ethyl 2-cyclohexanonecarboxylate. The product was obtained as a white solid (9.6 g, 94%) m.p. 121°-123° C.

reactant | 4-nitropyrazole | 0.046 mole, 5.2 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | ethyl 2-cyclopentanonecarboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
product | Ethyl 2-(pyrazol-4-ylamino)cyclopentene-1-carboxylate | N1N=CC(=C1)NC1=C(CCC1)C(=O)OCC | C11H15N3O2
